US05650533
2-nitro-4-trifluoromethylbenzoyl chloride (9.4 g) was added dropwise to a cooled mixture of 1-cyclopropyl-1-diethylaminoethene (5.1 g) and triethylamine (3.7 g) in toluene (100 ml) whilst maintaining the temperature below 10° C. The mixture was then stirred at room temperature for 1 hour. The suspension was treated with decolourising charcoal and filtered. The filtrate was evaporated and the residue was purified by chromatography on silica gel eluted with a mixture of ethyl acetate and dichloromethane (1:9) to give 3-cyclopropyl-3-diethylamino-1-(2-nitro-4-trifluoromethylphenyl)-prop-2-en-1-one (4.1 g) as a red oil with its 1H NMR (in CDCl3) giving peaks at d=0.7-1.8(m, 11H), 3.5(q, 4H), 5.0(s, 1H), 7.5(d, 1H), 7.7(d, 1H),and 7.95(s, 1H).

reactant | 2-nitro-4-trifluoromethylbenzoyl chloride | 9.4 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
reactant | 1-cyclopropyl-1-diethylaminoethene | 5.1 g | C1(CC1)C(=C)N(CC)CC | C9H17N
reactant | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropyl-3-diethylamino-1-(2-nitro-4-trifluoromethylphenyl)-prop-2-en-1-one | 4.1 g | C1(CC1)C(=CC(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])N(CC)CC | C17H19F3N2O3
